### PR TITLE
Add missing proofs of properties of repeated receiving

### LINKED ISSUE #3: Add support for importing Isabelle sessions from GitHub
Currently, automated builds work only if the Isabelle session in this repository imports only sessions that are present in the Isabelle distribution.

We shall add support for importing Isabelle sessions available in other GitHub repositories. The source code of such sessions shall be assumed to reside in a subdirectory `src`, as it is the case with this session.

### LINKED ISSUE #15: Add missing proofs of properties of repeated receiving
There are several basic properties of repeated receiving that currently lack proofs. In most cases this is because these proofs have to be conducted by directly referring to the transition system and conducting such proofs was hard in the ♮-calculus era, without support for “up to” methods.

We shall conduct all the missing proofs of properties of repeated receiving. For this, we shall follow the approach outlined in the [respective comment in the high-assurance-legacy repository](https://github.com/input-output-hk/high-assurance-legacy/issues/15#issuecomment-486381795) as much as feasible.

### PR DESCRIPTION
**Pull request by javierdiaz72**
This will ultimately resolve #15.

### CODE REVIEW

**Comment by jeltsch** [comment]
I just experimented with constructing a more convenient coinduction rule for `repeated_receive`. I came to the conclusion that we should stick to `repeated_receive.coinduct`, but along the way came up with a proof of `adapted_after_repeated_receive`, which I strongly suggest to adopt:
```isabelle
lemma adapted_after_repeated_receive:
  shows "(A ▹⇧∞ x. 𝒫 x) « ℰ = A « ℰ ▹⇧∞ x. 𝒫 x « ℰ"
proof
  fix e
  show "((A ▹⇧∞ x. 𝒫 x) « ℰ) e = (A « ℰ ▹⇧∞ x. 𝒫 x « ℰ) e"
    by
      (subst (1 2) repeated_receive_proper_def, coinduction rule: repeated_receive.coinduct)
      (
        use adapted_after_receive adapted_after_parallel in ‹
          simp,
          subst (3 4) repeated_receive_proper_def,
          auto intro: repeated_receive.cong_intros
        ›
      )
qed
```

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 1]
```diff
@@ -1350,9 +1350,148 @@ text \<open>
   commutativity rules.
 *)
 
+lemma repeated_receive_evolution:
```
Comment (jeltsch) [inline src/Thorn_Calculus-Core_Bisimilarities.thy:1353]: I think, we should name this lemma `transition_from_repeated_receive`, in correspondence with similar lemmas, like `sending_transition_from_adapted`.

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 2]
```diff
@@ -1350,9 +1350,148 @@ text \<open>
...
+  assumes "A \<triangleright>\<^sup>\<infinity> x. \<P> x \<rightarrow>\<^sub>s\<lparr>\<alpha>\<rparr> Q"
+  obtains n and X
+  where "\<alpha> = A \<triangleright> \<star>\<^bsup>n\<^esup> X"
+    and "Q = post_receive n X (\<lambda>v. \<P> v \<parallel> A \<triangleright>\<^sup>\<infinity> x. \<P> x)"
```
Comment (jeltsch) [inline src/Thorn_Calculus-Core_Bisimilarities.thy:1357]: We should avoid manual alignment like that of aligning the term after `where` with the term after `and`, because it almost certainly breaks in PDF output. In this particular case, I would just put the code in a single line.

Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy:1357]: Also, the use of the variable name `v` isn’t in line with the, still unwritten, conventions that I followed in my code. Letters `v` and `w` are for completely generic things; in the `Thorn_Calculus-Foundations` theory, they are used for things that can be channels, values, and processes in particular. The names used for values are `x` and `y`. Since what you’ve named `v` above is what’s named `x` in the assumption and problems with shadowing cannot occur, I’d just replace `v` by `x`.

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 3]
```diff
@@ -1350,9 +1350,148 @@ text \<open>
...
+  using assms
+  by
+    (subst (asm) (2) repeated_receive_proper_def)
+    (rotate_tac, induction \<alpha> "A \<triangleright> x. (\<P> x \<parallel> A \<triangleright>\<^sup>\<infinity> x. \<P> x)" Q rule: synchronous_transition.induct,
+     fastforce intro: repeated_receive_proper_def)
+
```
Comment (jeltsch) [inline src/Thorn_Calculus-Core_Bisimilarities.thy:1363]: This proof already features key ingredients like the use of `subst` and the use of a properly instantiated elimination rule (through the use of `induction`), but it can be further simplified.

The first thing to observe is that we actually don’t need induction, but only case distinction (going down into cases one time instead of arbitrarily many times). This suggests to replace the proof method expression `induction α "A ▹ x. (𝒫 x ∥ A ▹⇧∞ x. 𝒫 x)" Q rule: synchronous_transition.induct` by `cases α "A ▹ x. (𝒫 x ∥ A ▹⇧∞ x. 𝒫 x)" Q rule: synchronous_transition.cases`.

A side effect of using `cases` instead of `induction` is that the `rotate_tac` isn’t needed anymore. The `induction` method expects the application of the inductive predicate as the first premise or chained fact, but `cases` apparently just creates one subgoal for each premise, with the subgoal created for the application of the predicate being so trivial that it can be solved by the `assumption` method.

Interestingly, also the other subgoal created by `cases` is trivial. As a result, something like the `fastforce` invocation above isn’t needed anymore, but a simple `assumption` also suffices here.

Since Isar applies proof by assumption automatically, the proof method expressions after `by` can be reduced to just the `subst` and the `cases` invocation, leading to the following proof:
```isabelle
using assms
by
  (subst (asm) (2) repeated_receive_proper_def)
  (cases α "A ▹ x. (𝒫 x ∥ A ▹⇧∞ x. 𝒫 x)" Q rule: synchronous_transition.cases)
```

However, when using `by`, the first proof method expression should typically reduce the goal to some subgoals referring to different cases, which the second proof method expression should solve. Therefore, an application of `cases` like the one above should really go into the first proof method expression. Therefore, I suggest to bundle both proof method expressions into a single one.

However, doing only that doesn’t work, probably because it results in `assms` being passed as a chained fact to the invocation of `cases` as well. A fix is to pass it only to the `subst` invocation using the `use` method. This leads to the following proof, which I suggest to adopt:
```isabelle
by
  (
    use assms in ‹subst (asm) (2) repeated_receive_proper_def›,
    cases α "A ▹ x. (𝒫 x ∥ A ▹⇧∞ x. 𝒫 x)" Q rule: synchronous_transition.cases
  )
```

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 1 above)
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy:1353]: Also I think that, because this lemma is rather fundamental and potentially usable in other places, we should move it into `Thorn_Calculus-Semantics-Synchronous`, preferably right before `adapted_io_transition`.

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 4]
```diff
@@ -1350,9 +1350,148 @@ text \<open>
...
 lemma repeated_receive_idempotency [thorn_simps]:
   shows "A \<triangleright>\<^sup>\<infinity> x. \<P> x \<parallel> A \<triangleright>\<^sup>\<infinity> x. \<P> x \<sim>\<^sub>s A \<triangleright>\<^sup>\<infinity> x. \<P> x"
-  sorry
+proof (coinduction rule: synchronous.up_to_rule [where \<F> = "[\<sim>\<^sub>s] \<frown> \<M>"])
+  case (forward_simulation \<alpha> S)
+  then show ?case
+  proof cases
+    case (parallel_left_io \<eta> A' n X P')
+    from \<open>A \<triangleright>\<^sup>\<infinity> x. \<P> x \<rightarrow>\<^sub>s\<lparr>IO \<eta> A' n X\<rparr> P'\<close>
+    have "A \<triangleright> \<star>\<^bsup>n\<^esup> X = IO \<eta> A' n X" and "P' = post_receive n X (\<lambda>v. \<P> v \<parallel> A \<triangleright>\<^sup>\<infinity> x. \<P> x)"
```
Comment (jeltsch) [inline src/Thorn_Calculus-Core_Bisimilarities.thy:1372]: I think instead of proving `A ▹ ⋆⇗n⇖ X = IO η A' n X` it is better to prove what’s actually behind that, namely `η = Receiving` and `A = A'`.

Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy:1372]: Also here, `v` should be replaced by `x`.

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 5]
```diff
@@ -1350,9 +1350,148 @@ text \<open>
...
+        using post_receive_after_parallel
+        by simp
+      then have "
+        post_receive n X (\<lambda>v. \<P> v \<parallel> A \<triangleright>\<^sup>\<infinity> x. \<P> x) \<parallel> (A \<triangleright>\<^sup>\<infinity> x. \<P> x) \<guillemotleft> suffix n
+        \<sim>\<^sub>s
+        post_receive n X \<P> \<parallel> ((A \<triangleright>\<^sup>\<infinity> x. \<P> x) \<guillemotleft> suffix n \<parallel> (A \<triangleright>\<^sup>\<infinity> x. \<P> x) \<guillemotleft> suffix n)"
+        by (simp only: parallel_associativity)
+      then show ?thesis
+        by (simp only: adapted_after_parallel)
+    qed
```
Comment (jeltsch) [inline src/Thorn_Calculus-Core_Bisimilarities.thy:1396]: I guess the proof might be easier to understand if it was in calculational-reasoning style.

Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy:1396]: Also, the `by simp` in line 1388 can be replaced by the simpler `unfolding post_receive_def .`.

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 6]
```diff
@@ -1350,9 +1350,148 @@ text \<open>
...
+    ultimately show ?thesis
+      unfolding
+        \<open>\<alpha> = A \<triangleright> \<star>\<^bsup>n\<^esup> X\<close> and \<open>P' = post_receive n X (\<lambda>v. \<P> v \<parallel> A \<triangleright>\<^sup>\<infinity> x. \<P> x)\<close> and
+        \<open>S = P' \<parallel> (A \<triangleright>\<^sup>\<infinity> x. \<P> x) \<guillemotleft> suffix n\<close>
+      using
+        post_receive_after_parallel and
```
Comment (jeltsch) [inline src/Thorn_Calculus-Core_Bisimilarities.thy:1402]: I prefer to directly apply equations, like `post_receive_after_parallel`, via `unfolding` instead of passing them as chained facts via `using`.

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 7]
```diff
@@ -1350,9 +1350,148 @@ text \<open>
...
+        \<open>S = (A \<triangleright>\<^sup>\<infinity> x. \<P> x) \<guillemotleft> suffix n \<parallel> Q'\<close>
+      using
+        post_receive_after_parallel and
+        composition_in_universe [
+          OF
+            suffix_adapted_mutation_in_universe
+            parallel_mutation_in_universe
+        ]
+      by (intro exI conjI, use in assumption) (fastforce intro: rev_bexI)
+  qed (blast elim: repeated_receive_evolution(1))+
```
Comment (jeltsch) [inline src/Thorn_Calculus-Core_Bisimilarities.thy:1449]: I haven’t specifically looked through the code for this second case, but I guess remarks analogous to them for the first apply.

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 8]
```diff
@@ -1350,9 +1350,148 @@ text \<open>
...
+next
+  case (backward_simulation \<alpha> S)
+  then show ?case
+  proof (cases rule: repeated_receive_evolution [case_names receiving])
```
Comment (jeltsch) [inline src/Thorn_Calculus-Core_Bisimilarities.thy:1453]: I think it would be better to use `repeated_receive_evolution` with a proof method to show what holds in the one case possible (like you did under `forward_simulation`) instead of using `cases`. That would make the code more straightforward (as it would avoid the extra nesting with just a single case) and would make it consistent with the code for `forward_simulation`.

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 9]
```diff
@@ -1350,9 +1350,148 @@ text \<open>
...
+    case (receiving n X)
+    from receiving and \<open>A \<triangleright>\<^sup>\<infinity> x. \<P> x \<rightarrow>\<^sub>s\<lparr>\<alpha>\<rparr> S\<close>
+    have "A \<triangleright>\<^sup>\<infinity> x. \<P> x \<rightarrow>\<^sub>s\<lparr>A \<triangleright> \<star>\<^bsup>n\<^esup> X\<rparr> post_receive n X (\<lambda>v. \<P> v \<parallel> A \<triangleright>\<^sup>\<infinity> x. \<P> x)"
+      by (simp only:)
```
Comment (jeltsch) [inline src/Thorn_Calculus-Core_Bisimilarities.thy:1457]: Interestingly, here you go directly from the given transition to the more specific formulation of this transition. This might be a good approach also for the `forward_simulation` case and is an interesting alternative to showing the underlying equations `η = Receiving` and `A = A'`, which I suggested above.

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 10]
```diff
@@ -1350,9 +1350,148 @@ text \<open>
...
+    then have "
+      A \<triangleright>\<^sup>\<infinity> x. \<P> x \<parallel> A \<triangleright>\<^sup>\<infinity> x. \<P> x
+      \<rightarrow>\<^sub>s\<lparr>A \<triangleright> \<star>\<^bsup>n\<^esup> X\<rparr>
+      post_receive n X (\<lambda>v. \<P> v \<parallel> A \<triangleright>\<^sup>\<infinity> x. \<P> x) \<parallel> (A \<triangleright>\<^sup>\<infinity> x. \<P> x) \<guillemotleft> suffix n"
+      by (fact parallel_left_io)
+    moreover
+    have "
+      post_receive n X (\<lambda>v. \<P> v \<parallel> A \<triangleright>\<^sup>\<infinity> x. \<P> x) \<parallel> (A \<triangleright>\<^sup>\<infinity> x. \<P> x) \<guillemotleft> suffix n
+      \<sim>\<^sub>s
+      post_receive n X \<P> \<parallel> (A \<triangleright>\<^sup>\<infinity> x. \<P> x \<parallel> A \<triangleright>\<^sup>\<infinity> x. \<P> x) \<guillemotleft> suffix n"
```
Comment (jeltsch) [inline src/Thorn_Calculus-Core_Bisimilarities.thy:1467]: This seems to be the statement you have already proved for the `parallel_left_io` subcase of the `forward_simulation` case. I think such a code duplication is fine if the proof is just a `by` clause. Maybe such a proof can be achieved. If not, we should seek for ways to remove this code duplication.

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 11]
```diff
@@ -1350,9 +1350,148 @@ text \<open>
...
+        \<sim>\<^sub>s
+        post_receive n X \<P> \<parallel> ((A \<triangleright>\<^sup>\<infinity> x. \<P> x) \<guillemotleft> suffix n \<parallel> (A \<triangleright>\<^sup>\<infinity> x. \<P> x) \<guillemotleft> suffix n)"
+        by (simp only: parallel_associativity)
+      then show ?thesis
+        by (simp only: adapted_after_parallel)
+    qed
+    ultimately show ?thesis
+      unfolding \<open>\<alpha> = A \<triangleright> \<star>\<^bsup>n\<^esup> X\<close> and \<open>S = post_receive n X (\<lambda>v. \<P> v \<parallel> A \<triangleright>\<^sup>\<infinity> x. \<P> x)\<close>
+      using
+        post_receive_after_parallel and
```
Comment (jeltsch) [inline src/Thorn_Calculus-Core_Bisimilarities.thy:1486]: Also here, `post_receive_after_parallel` should rather be applied via `unfolding`.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 1 above)
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Fixed in f1d1fc4712732b2ef29314be5e7c0846b639c6e8 and f62d0237aee8a130b575774a1fa9c23e19b1b2d8, please verify.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 2 above)
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Fixed in 7a7c10bec73f3fbbae1b23ee24e9534bb5fe0531 and 2ef937d043006776d361fe000efc44a64c975eaa, please verify.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 3 above)
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Thanks a lot for your detailed explanation, it was very useful. The enhancement is included in 5958b601995aaf54e72588a5a6959f66e665bd7f, please verify.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 4 above)
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Fixed in e284d0d6146420d94eba6d163bb939a47756ef4b and 47bd854e92b49c095c0e82208156126a1001e56a. In the latter, I extended the renaming of `v` to `x` to the whole proof of `repeated_receive_idempotency`. Please verify.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 5 above)
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Fixed in d57dfe8706d960f00e2c8007f3d7293e2f253460, which extends the improvements to the whole proof of `repeated_receive_idempotency`. Please verify.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 1 above)
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Looks good. Thank you.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 2 above)
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: 7a7c10bec73f3fbbae1b23ee24e9534bb5fe0531 looks good to me. 2ef937d043006776d361fe000efc44a64c975eaa is kind of incomplete, since there are other occurrences of `v` that should be replaced by `x`.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 3 above)
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Looks good to me. :slightly_smiling_face:

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 2 above)
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Oh, I see that the further replacements of `v` by `x` are handled in 47bd854e92b49c095c0e82208156126a1001e56a. So this all looks good to me now.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 4 above)
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Oh, I made a mistake above when writing `A = A'`. The statement should say that a variable introduced by `case` is equal to an already know one, not the other way round; so it should be `A' = A` instead. Could you please adapt the code correspondingly? Thanks.

Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Somehow I’m still not really satisfied with this part of the code. I have the feeling it should be made more concise. Unfortunately, we don’t seem to have some other code that could serve as a blueprint, since this combination of case distinction and considering the only possible transition from a certain process family is kind of new.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 5 above)
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Oh, this trick of combining `unfolding` with `..`, with the latter applying reflexivity of `=`, is really neat. I didn’t know that `standard`, which is invoked by `..`, can solve equations of the form `x = x`. I always used `simp (only: …)` in such cases. Maybe we should replace all invocations of `simp only:` by proofs using this style.

Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: The `…` and `∼⇩s` in the second proof step should not be on lines of their own (this sort of splitting across lines is only done in our existing code where there is something other than `…`). So `also have "… ∼⇩s` should all be on one line.

Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: There shouldn’t be any parentheses in `(A ▹⇧∞ x. 𝒫 x) « suffix n`, as `▹⇧∞` binds stronger than `«`. Please check also whether there are other places where this issue arises.

Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: The application of `adapted_after_parallel` should be made part of the second proof step (or become a proof step of its own), since all reasoning should be made explicit as part of the calculational reasoning steps (after `finally`, there should be only `.` with at most some unfolding of definitions).

**Comment by jeltsch** [comment]
A more administrative remark: Please take care to keep the subject lines of commit messages within the size restriction mandated by `CONTRIBUTING.md`, which was chosen to ensure nice rendering in GitHub.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 4 above)
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Regarding your last message, I'll think of a form to make that part more concise. With respect to the original issue in question, it's fixed in f5a7a4eaa290b44e3ad057c7d4eb0a4cda0d1415. By the way, I went ahead and also fixed the same issue for the `parallel_right_io` case. Please verify.

Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Looks very good to me. Thanks for looking for a more concise version.

Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Here’s a more concise one:
```isabelle
    case (parallel_left_io η A' n X P')
    from parallel_left_io(3,3)
    have "A ▹⇧∞ x. 𝒫 x →⇩s⦇A ▹ ⋆⇗n⇖ X⦈ post_receive n X (λx. 𝒫 x ∥ A ▹⇧∞ x. 𝒫 x)"
      by (fastforce elim: transition_from_repeated_receive)
```

Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Also note how you can nicely pass a single premise from `case` twice: just repeat it’ index (3 in this case).

Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: I must say I pretty much like the second version.

Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Sorry to steal the show from you. :slightly_frowning_face:

Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Do you want to incorporate the second version into the code?

Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Besides the nice trick to obtain `A ▹⇧∞ x. 𝒫 x →⇩s⦇A ▹ ⋆⇗n⇖ X⦈ post_receive n X (λx. 𝒫 x ∥ A ▹⇧∞ x. 𝒫 x)`, I still need to show that `"η = Receiving" and "A' = A" and "P' = post_receive n X (λx. 𝒫 x ∥ A ▹⇧∞ x. 𝒫 x)"`. And this only seems to be possible when using (again) `transition_from_repeated_receive` (which makes sense) and `parallel_left_io(3)` (again). Therefore, this is the new code I came up with:
```isabelle
    case (parallel_left_io η A' n X P')
    from parallel_left_io(3)
    have "η = Receiving" and "A' = A" and "P' = post_receive n X (λx. 𝒫 x ∥ A ▹⇧∞ x. 𝒫 x)"
      by (auto elim: transition_from_repeated_receive)
    with parallel_left_io(3)
    have "A ▹⇧∞ x. 𝒫 x →⇩s⦇A ▹ ⋆⇗n⇖ X⦈ post_receive n X (λx. 𝒫 x ∥ A ▹⇧∞ x. 𝒫 x)"
      by simp
```
 
Would you be satisfied with it?

Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Okay, that’s not possible, because we need the equations as facts, as `η`, `A'`, and `P'` also appear in the goal. This seems to be a pretty good choice:
```isabelle
case (parallel_left_io η A' n X P')
from ‹A ▹⇧∞ x. 𝒫 x →⇩s⦇IO η A' n X⦈ P'›
have
  "η = Receiving"
and
  "A' = A"
and
  "P' = post_receive n X (λx. 𝒫 x ∥ A ▹⇧∞ x. 𝒫 x)"
and
  "A ▹⇧∞ x. 𝒫 x →⇩s⦇A ▹ ⋆⇗n⇖ X⦈ post_receive n X (λx. 𝒫 x ∥ A ▹⇧∞ x. 𝒫 x)"
  unfolding atomize_conj
  by (-, fastforce elim: transition_from_repeated_receive)
```

Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: That's a nice alternative indeed. I modified the code accordingly in 384b3e4cfef5b6e988e7579c4c484388391c857c. Also, I (hopefully) improved the case `receiving` in a similar manner.

Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: The change for the `receiving` case is a nice and important one indeed. It can be further improved by replacing `by -` with `.`. :slightly_smiling_face:

Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: That's right, I thought I had already tried with `.` and `..` and that they hadn't worked. The improvement is included in 0245d8188654cd3aaf4e4015e074ca721fd8a2e9, please verify.

Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Looks good. :slightly_smiling_face:

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 5 above)
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Fixed in 2319419a8e1b96765cd8c40791a68a125f8453bc, which extends the improvements to the whole proof of `repeated_receive_idempotency`. Please verify.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 6 above)
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Fixed in af749d2a34019141d9c9cc1f7ba58e99e3cc16ca, which extends the improvement to the whole proof of `repeated_receive_idempotency`. Please verify.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 7 above)
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Indeed, the remarks for the first case apply here as well and were addressed in previous commits. Please verify-

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 8 above)
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Do you mean something like the following?
```isabelle
  case (backward_simulation α S)
  then show ?case
  proof cases
      case (receiving n X)
      ... (* proof for `receiving`, no other case in explicitly mentioned *)
   qed (blast elim: transition_from_repeated_receive(1))+
```

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 9 above)
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Though feasible, applying a similar strategy for the `forward_simulation` case is a bit more involved, since facts such as `α = A ▹ ⋆⇗n⇖ X` are given as assumptions in the `receiving` subcase of the `backward_simulation` case, whereas, on the other hand, such facts need to be proven in the `forward_simulation` case. As an example, the following is an alternative proof, in the spirit of the mentioned strategy, for the `parallel_left_io` case:
```isabelle
    case (parallel_left_io η A' n X P')
    from ‹A ▹⇧∞ x. 𝒫 x →⇩s⦇IO η A' n X⦈ P'› and ‹α = IO η A' n X›
    have
      "A ▹⇧∞ x. 𝒫 x →⇩s⦇A ▹ ⋆⇗n⇖ X⦈ post_receive n X (λx. 𝒫 x ∥ A ▹⇧∞ x. 𝒫 x)"
    and
      "α = A ▹ ⋆⇗n⇖ X"
    and
      "P' = post_receive n X (λx. 𝒫 x ∥ A ▹⇧∞ x. 𝒫 x)"
      unfolding atomize_conj
      by (-, fastforce elim: transition_from_repeated_receive)
    moreover
    have "
      post_receive n X (λx. 𝒫 x ∥ A ▹⇧∞ x. 𝒫 x) ∥ (A ▹⇧∞ x. 𝒫 x) « suffix n
      ∼⇩s
      post_receive n X 𝒫 ∥ (A ▹⇧∞ x. 𝒫 x ∥ A ▹⇧∞ x. 𝒫 x) « suffix n"
      (* same proof as current *)
    ultimately show ?thesis
      unfolding
        ‹α = A ▹ ⋆⇗n⇖ X› and
        ‹P' = post_receive n X (λx. 𝒫 x ∥ A ▹⇧∞ x. 𝒫 x)› and ‹S = P' ∥ (A ▹⇧∞ x. 𝒫 x) « suffix n› and
        post_receive_after_parallel
      using
        composition_in_universe [
          OF
            suffix_adapted_mutation_in_universe
            parallel_mutation_in_universe
        ]
      by (intro exI conjI, use in assumption) (fastforce intro: rev_bexI)
```
Compared with the current proof, this alternative proof needs one less proof step. Would you be satisfied with it?

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 8 above)
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Please ignore my previous comment, I hadn't fully understood what your suggestion was. Fixed in 4c711e10243ea6a6b7394c40245a635f3efe9a85, please verify.

Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: I fixed a minor style issue, introduced by 4c711e10243ea6a6b7394c40245a635f3efe9a85, in efb2d9722930d497e4c555c143792c6e4da4a785.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 9 above)
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Update: Given the improvement introduced by 4c711e10243ea6a6b7394c40245a635f3efe9a85 in which facts such as `α = A ▹ ⋆⇗n⇖ X` now need to be proved, I think that the alternative proof above would be even more appealing also for the sake of consistency.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 11 above)
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Correct, please refer to https://github.com/input-output-hk/thorn-calculus/pull/31#discussion_r896118285.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 5 above)
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Looks good to me.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 7 above)
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: I think this should all be fine, and in addition we have looked together through the whole code and come up with 04d4c63b3adfd44788c698dcdb9b05b694c12814; so there shouldn’t be anything to do here anymore.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 8 above)
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Hmm, I can’t quickly assess these changes, given that they are shown in GitHub using this LaTeX-like encoding, but since we went together through the whole proof and came up with 04d4c63b3adfd44788c698dcdb9b05b694c12814, I think everything should be fine.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 10 above)
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: As we have discussed in person, such a proof doesn’t seem explicit enough to be well understandable to the human reader. In 04d4c63b3adfd44788c698dcdb9b05b694c12814, we have introduced separate lemmas for this bisimilarity and the other one meanwhile.

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 12]
```diff
@@ -1352,7 +1352,132 @@ text \<open>
 
 lemma repeated_receive_idempotency [thorn_simps]:
   shows "A \<triangleright>\<^sup>\<infinity> x. \<P> x \<parallel> A \<triangleright>\<^sup>\<infinity> x. \<P> x \<sim>\<^sub>s A \<triangleright>\<^sup>\<infinity> x. \<P> x"
-  sorry
+proof (coinduction rule: synchronous.up_to_rule [where \<F> = "[\<sim>\<^sub>s] \<frown> \<M>"])
+  case (forward_simulation \<alpha> S)
+  then show ?case
+  proof cases
+    case (parallel_left_io \<eta> A' n X P')
```
[the remark this answers is not in the document]
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: This change is introduced by 04d4c63b3adfd44788c698dcdb9b05b694c12814.

**Comment by javierdiaz72** [comment]
> I just experimented with constructing a more convenient coinduction rule for `repeated_receive`. I came to the conclusion that we should stick to `repeated_receive.coinduct`, but along the way came up with a proof of `adapted_after_repeated_receive`, which I strongly suggest to adopt:
> 
> ```isabelle-theory
> lemma adapted_after_repeated_receive:
>   shows "(A ▹⇧∞ x. 𝒫 x) « ℰ = A « ℰ ▹⇧∞ x. 𝒫 x « ℰ"
>   by
>     (
>       standard,
>       subst (1 2) repeated_receive_proper_def,
>       coinduction rule: repeated_receive.coinduct
>     )
>     (
>       use adapted_after_receive adapted_after_parallel in simp,
>       subst (3 4) repeated_receive_proper_def,
>       auto intro: repeated_receive.cong_intros
>     )
> ```

Addressed in fa7bc881ee60fb1b2729987d600c0a6e88612382, please verify.

**Comment by jeltsch** [comment]
> Addressed in fa7bc881ee60fb1b2729987d600c0a6e88612382, please verify.

Looks good to me. :slightly_smiling_face:

**Comment by jeltsch** [comment]
The `inner_repeated_receive_redundancy` lemma is the only remaining one to prove as part of this pull request.

**Review by jeltsch — COMMENTED** [review]
These are my comments regarding the revised versions of the previously existing auxiliary lemmas. I’ll comment later on the actual proof and the new auxiliary lemmas.

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 13]
```diff
@@ -1354,17 +1354,17 @@ context begin
...
 
 private lemma double_repeated_receive_post_right_receive:
   shows "
-    (A \<triangleright>\<^sup>\<infinity> x. \<P> x) \<guillemotleft> suffix n \<parallel> (post_receive n X \<P> \<parallel> (A \<triangleright>\<^sup>\<infinity> x. \<P> x) \<guillemotleft> suffix n)
+    (A \<triangleright>\<^sup>\<infinity> x. \<P> x) \<guillemotleft> \<E> \<parallel> (post_receive n X \<P> \<parallel> (B \<triangleright>\<^sup>\<infinity> y. \<Q> y) \<guillemotleft> \<E>)
     \<sim>\<^sub>s
-    post_receive n X \<P> \<parallel> (A \<triangleright>\<^sup>\<infinity> x. \<P> x \<parallel> A \<triangleright>\<^sup>\<infinity> x. \<P> x) \<guillemotleft> suffix n"
+    post_receive n X \<P> \<parallel> (A \<triangleright>\<^sup>\<infinity> x. \<P> x \<parallel> B \<triangleright>\<^sup>\<infinity> y. \<Q> y) \<guillemotleft> \<E>"
   unfolding adapted_after_parallel
   using parallel_left_commutativity .
```
[the remark this answers is not in the document]
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Fixed in abc949a083b0e66139772fd8a91b7f7e40daaa46, please verify.

**Review by jeltsch — COMMENTED** [review]
The handling of the `forward_simulation` case looks really good already. That said, there are some issues I’d like you to address: see below.

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 14]
```diff
@@ -1469,9 +1467,177 @@ proof -
   finally show ?thesis .
 qed
 
+private lemma adapted_after_repeated_receive_nested_idempotency:
```
Comment (jeltsch) [inline src/Thorn_Calculus-Core_Bisimilarities.thy:1470]: Where `_after_` is used in other lemma names, these lemma names have the structure `⟨function_1⟩_after_⟨function_2⟩`. They refer to the left-hand sides of the stated bisimilarities, which arise from applying `⟨function_2⟩` and then `⟨function_1⟩`. However, in the case of this lemma and the next, what comes after `_after_` is a lemma name.

Therefore, the name of this lemma and the name of the next should be changed. Please look whether we have other lemmas in this theory that state bisimilarities to be used in “up to bisimilarity” proofs and, if yes, use the same naming scheme as used for those lemmas.

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 15]
```diff
@@ -1469,9 +1467,177 @@ proof -
...
+  shows "(A \<triangleright>\<^sup>\<infinity> x. \<P> x) \<guillemotleft> \<E> \<parallel> ((A \<triangleright>\<^sup>\<infinity> x. \<P> x) \<guillemotleft> \<E> \<parallel> P) \<parallel> Q \<guillemotleft> \<E> \<sim>\<^sub>s P \<parallel> (A \<triangleright>\<^sup>\<infinity> x. \<P> x \<parallel> Q) \<guillemotleft> \<E>"
```
Comment (jeltsch) [inline src/Thorn_Calculus-Core_Bisimilarities.thy:1471]: Like the statements of `double_repeated_receive_post_left_receive` and `double_repeated_receive_post_right_receive`, this lemma statement and the next should be more specific, I think. I’d prefer if they stated exactly what’s needed in the proof of `inner_repeated_receive_redundancy`. Not only would this better motivate the introduction of these lemmas; it would also remove sources of confusion. Currently, there are unfortunate mismatches between the variable names in the lemma statements and the ones in the proof of `inner_repeated_receive_redundancy`; for example, `P` in the statement above gets instantiated with `post_receive n X 𝒬`.

Of course, the lemma statements get longer this way. I strongly suggest to use `is` annotations to avoid repeating long terms in the proofs.

**Review by jeltsch — COMMENTED** [review]
Following are my comments regarding the new auxiliary lemmas.

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 16]
```diff
@@ -1469,9 +1467,177 @@ proof -
...
+    case (parallel_right_io \<eta> B' n X Q)
+    from \<open>B \<triangleright>\<^sup>\<infinity> y. \<Q> y \<rightarrow>\<^sub>s\<lparr>IO \<eta> B' n X\<rparr> Q\<close>
+    have
+      "\<eta> = Receiving"
+    and
+      "B' = B"
+    and
+      "Q = post_receive n X (\<lambda>y. \<Q> y \<parallel> B \<triangleright>\<^sup>\<infinity> y. \<Q> y)"
+      by (auto elim: transition_from_repeated_receive)
+    moreover
```
Comment (jeltsch) [inline src/Thorn_Calculus-Core_Bisimilarities.thy:1609]: Like in the `forward_simulation` part, this `moreover` should be removed, and the `ultimately` further below should be replaced by a `then`.

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 17]
```diff
@@ -1469,9 +1467,177 @@ proof -
...
+    have "
+      B \<triangleright>\<^sup>\<infinity> y. (A \<triangleright>\<^sup>\<infinity> x. \<P> x \<parallel> \<Q> y)
+      \<rightarrow>\<^sub>s\<lparr>B \<triangleright> \<star>\<^bsup>n\<^esup> X\<rparr>
+      post_receive n X (\<lambda>y. (A \<triangleright>\<^sup>\<infinity> x. \<P> x \<parallel> \<Q> y) \<parallel> B \<triangleright>\<^sup>\<infinity> y. (A \<triangleright>\<^sup>\<infinity> x. \<P> x \<parallel> \<Q> y))"
+      using synchronous_transition.receiving
```
Comment (jeltsch) [inline src/Thorn_Calculus-Core_Bisimilarities.thy:1614]: Like in the `forward_simulation` part, the `synchronous_transition` qualification should be dropped.

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 18]
```diff
@@ -1469,9 +1467,177 @@ proof -
...
+      by (subst repeated_receive_proper_def, blast)
```
Comment (jeltsch) [inline src/Thorn_Calculus-Core_Bisimilarities.thy:1615]: Like in the `forward_simulation` part, the invocation of `blast` should be dropped.

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 19]
```diff
@@ -1469,9 +1467,177 @@ proof -
...
+    then have "
+      A \<triangleright>\<^sup>\<infinity> x. \<P> x \<parallel> B \<triangleright>\<^sup>\<infinity> y. (A \<triangleright>\<^sup>\<infinity> x. \<P> x \<parallel> \<Q> y)
+      \<rightarrow>\<^sub>s\<lparr>B \<triangleright> \<star>\<^bsup>n\<^esup> X\<rparr>
+      (A \<triangleright>\<^sup>\<infinity> x. \<P> x) \<guillemotleft> suffix n \<parallel> post_receive n X (\<lambda>y. (A \<triangleright>\<^sup>\<infinity> x. \<P> x \<parallel> \<Q> y) \<parallel>
+      B \<triangleright>\<^sup>\<infinity> y. (A \<triangleright>\<^sup>\<infinity> x. \<P> x \<parallel> \<Q> y))"
```
Comment (jeltsch) [inline src/Thorn_Calculus-Core_Bisimilarities.thy:1620]: Please have a line break after the first `∥` instead of the second, since the second is inside parentheses.

**Review by jeltsch — COMMENTED** [review]
Finally, here are my comments regarding the handling of the `backward_simulation` case.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 13 above)
[the remark this answers is not in the document]
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Looks very good. :slightly_smiling_face:

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 20]
```diff
@@ -1469,9 +1467,177 @@ proof -
...
+      "\<eta> = Receiving"
+    and
+      "B' = B"
+    and
+      "Q = post_receive n X (\<lambda>y. (A \<triangleright>\<^sup>\<infinity> x. \<P> x \<parallel> \<Q> y) \<parallel> B \<triangleright>\<^sup>\<infinity> y. (A \<triangleright>\<^sup>\<infinity> x. \<P> x \<parallel> \<Q> y))"
+      by (auto elim: transition_from_repeated_receive)
+    moreover
+    have "B \<triangleright>\<^sup>\<infinity> y. \<Q> y \<rightarrow>\<^sub>s\<lparr>B \<triangleright> \<star>\<^bsup>n\<^esup> X\<rparr> post_receive n X (\<lambda>y. \<Q> y \<parallel> B \<triangleright>\<^sup>\<infinity> y. \<Q> y)"
+      using synchronous_transition.receiving
+      by (subst repeated_receive_proper_def, blast)
```
[the remark this answers is not in the document]
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Fixed in 2cfe2c6bc0e9f1080def2ec6c3486df2c1064ccc, please verify.

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 21]
```diff
@@ -1469,9 +1467,177 @@ proof -
...
+    case (parallel_right_io \<eta> B' n X Q)
+    from \<open>B \<triangleright>\<^sup>\<infinity> y. (A \<triangleright>\<^sup>\<infinity> x. \<P> x \<parallel> \<Q> y) \<rightarrow>\<^sub>s\<lparr>IO \<eta> B' n X\<rparr> Q\<close>
+    have
+      "\<eta> = Receiving"
+    and
+      "B' = B"
+    and
+      "Q = post_receive n X (\<lambda>y. (A \<triangleright>\<^sup>\<infinity> x. \<P> x \<parallel> \<Q> y) \<parallel> B \<triangleright>\<^sup>\<infinity> y. (A \<triangleright>\<^sup>\<infinity> x. \<P> x \<parallel> \<Q> y))"
+      by (auto elim: transition_from_repeated_receive)
+    moreover
```
[the remark this answers is not in the document]
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Fixed in 615cffa4cecbd6eb272b4c134820b2518e74f979, please verify.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 16 above)
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Fixed in 615cffa4cecbd6eb272b4c134820b2518e74f979, please verify.

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 22]
```diff
@@ -1469,9 +1467,177 @@ proof -
...
+    have "B \<triangleright>\<^sup>\<infinity> y. \<Q> y \<rightarrow>\<^sub>s\<lparr>B \<triangleright> \<star>\<^bsup>n\<^esup> X\<rparr> post_receive n X (\<lambda>y. \<Q> y \<parallel> B \<triangleright>\<^sup>\<infinity> y. \<Q> y)"
+      using synchronous_transition.receiving
```
[the remark this answers is not in the document]
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: I guess you meant `case receiving` instead of `case receive`. In any case, the issue is fixed in 1620d94a41d5b767255a307fde63506e553a73da, please verify.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 17 above)
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Fixed in 1620d94a41d5b767255a307fde63506e553a73da, please verify.

File: src/Thorn_Calculus-Core_Bisimilarities.thy [hunk 23]
```diff
@@ -1469,9 +1467,177 @@ proof -
...
+      by (fact synchronous_transition.parallel_right_io)
+    ultimately show ?thesis
+      unfolding
+        post_receive_after_parallel
+      and
+        \<open>\<alpha> = IO \<eta> B' n X\<close> and \<open>S = (A \<triangleright>\<^sup>\<infinity> x. \<P> x) \<guillemotleft> suffix n \<parallel> Q\<close>
+      and
+        \<open>\<eta> = Receiving\<close> and \<open>B' = B\<close>
+      and
+        \<open>Q = post_receive n X (\<lambda>y. (A \<triangleright>\<^sup>\<infinity> x. \<P> x \<parallel> \<Q> y) \<parallel> B \<triangleright>\<^sup>\<infinity> y. (A \<triangleright>\<^sup>\<infinity> x. \<P> x \<parallel> \<Q> y))\<close>
```
[the remark this answers is not in the document]
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Fixed in 0e46e495dd82f58f52ecf8a16af74a7817ace380, please verify.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 18 above)
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Fixed in 2cfe2c6bc0e9f1080def2ec6c3486df2c1064ccc, please verify.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 22 above)
[the remark this answers is not in the document]
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Yes, that’s what I meant. :slightly_smiling_face:

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 20 above)
[the remark this answers is not in the document]
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Looks good.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 21 above)
[the remark this answers is not in the document]
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Looks good as well.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 22 above)
[the remark this answers is not in the document]
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Everything looks fine now.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 23 above)
[the remark this answers is not in the document]
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Correct.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 16 above)
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: All good.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 17 above)
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: All good.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 18 above)
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: All good.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 15 above)
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Fixed in 9e401d2987a9a677cbb2ae49f569bf1d1f7f7a88, please verify.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 19 above)
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Fixed in bfcfdbbe66972b490e21e94be1cbcc5430fa2e82, please verify.

Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Looks good to me.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 15 above)
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: I forgot to include the removal of superfluous parentheses in the previous commit, so I created ff75591965a0daa1f277b886be9aac45c625528a to fix it.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 14 above)
Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy:1470]: The following are the names of the lemmas in this theory that state bisimilarities to be used in “up to bisimilarity” proofs:

- `create_channel_power_after_move_adapted`
- `independent_value_adjustment`
- `communication_with_rightmost_adjustment`

I'm not sure whether there is a concrete naming scheme used for those lemmas beyond what we have already agreed upon. Therefore, since our two auxiliary lemmas are essentially versions of `repeated_receive_nested_idempotency` and `parallel_left_commutativity` with adaptations (and other features, of course), the following are my suggestions for the new names:

- `adapted_repeated_receive_nested_idempotency` instead of `adapted_after_repeated_receive_nested_idempotency`
- `adapted_parallel_left_commutativity` instead of `adapted_after_parallel_left_commutativity`

What do you think of these new names?

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 15 above)
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: https://github.com/input-output-hk/thorn-calculus/blob/9e401d2987a9a677cbb2ae49f569bf1d1f7f7a88/src/Thorn_Calculus-Core_Bisimilarities.thy#L1476
`T` and `U` should be turned into `S` and `T`. `S` and `T` are often used for a left-hand and corresponding right-hand side. `U` is typically used on its own.

Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: https://github.com/input-output-hk/thorn-calculus/blob/9e401d2987a9a677cbb2ae49f569bf1d1f7f7a88/src/Thorn_Calculus-Core_Bisimilarities.thy#L1478-L1480
This should become a single line, analogously to what we already have in many places in [network-equivalences](https://github.com/input-output-hk/network-equivalences) with `…` instead of `?T`.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 14 above)
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy:1470]: Worst of all, I have no idea why I chose the name `communication_with_rightmost_adjustment`. I have no idea what this is supposed to mean. :sweat_smile:

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 15 above)
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: In other places, we write parallel composition chains without parentheses,  like `P ∥ Q ∥ R`, only where we don’t have any particular nesting in mind. The idea is that the terms we write would stay valid if we changed the associativity of `∥`.

However, the left-hand side of the first of the auxiliary lemmas and the right-hand side of the second must have the nesting structure `P ∥ (Q ∥ R)`, since each arises from having a parallel composition perform a transition, with `P` arising from the left subprocess of that parallel composition and `Q ∥ R` arising from the right.

Therefore, I ask you to add parentheses around the respective processes `Q ∥ R`. In the case of the first one, please move the line break that splits the whole left-hand side such that it ends up just before the parallel composition `Q ∥ R`.

Here are the source code snippets that contain the two processes that should get parentheses added:
https://github.com/input-output-hk/thorn-calculus/blob/9e401d2987a9a677cbb2ae49f569bf1d1f7f7a88/src/Thorn_Calculus-Core_Bisimilarities.thy#L1472-L1473
https://github.com/input-output-hk/thorn-calculus/blob/9e401d2987a9a677cbb2ae49f569bf1d1f7f7a88/src/Thorn_Calculus-Core_Bisimilarities.thy#L1495

Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: > https://github.com/input-output-hk/thorn-calculus/blob/9e401d2987a9a677cbb2ae49f569bf1d1f7f7a88/src/Thorn_Calculus-Core_Bisimilarities.thy#L1476
> 
> `T` and `U` should be turned into `S` and `T`. `S` and `T` are often used for a left-hand and corresponding right-hand side. `U` is typically used on its own.

Fixed in 16c0e8e0b1f29d144bc25fa098c9504d8fc79917, please verify.

Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: > https://github.com/input-output-hk/thorn-calculus/blob/9e401d2987a9a677cbb2ae49f569bf1d1f7f7a88/src/Thorn_Calculus-Core_Bisimilarities.thy#L1478-L1480
> 
> This should become a single line, analogously to what we already have in many places in [network-equivalences](https://github.com/input-output-hk/network-equivalences) with `…` instead of `?T`.

Fixed in 16c0e8e0b1f29d144bc25fa098c9504d8fc79917, please verify.

Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: > In other places, we write parallel composition chains without parentheses, like `P ∥ Q ∥ R`, only where we don’t have any particular nesting in mind. The idea is that the terms we write would stay valid if we changed the associativity of `∥`.
> 
> However, the left-hand side of the first of the auxiliary lemmas and the right-hand side of the second must have the nesting structure `P ∥ (Q ∥ R)`, since each arises from having a parallel composition perform a transition, with `P` arising from the left subprocess of that parallel composition and `Q ∥ R` arising from the right.
> 
> Therefore, I ask you to add parentheses around the respective processes `Q ∥ R`. In the case of the first one, please move the line break that splits the whole left-hand side such that it ends up just before the parallel composition `Q ∥ R`.
> 
> Here are the source code snippets that contain the two processes that should get parentheses added:
> 
> https://github.com/input-output-hk/thorn-calculus/blob/9e401d2987a9a677cbb2ae49f569bf1d1f7f7a88/src/Thorn_Calculus-Core_Bisimilarities.thy#L1472-L1473
> 
> https://github.com/input-output-hk/thorn-calculus/blob/9e401d2987a9a677cbb2ae49f569bf1d1f7f7a88/src/Thorn_Calculus-Core_Bisimilarities.thy#L1495

Fixed in 33181bbf6697437e552b24117dfee6c338c84878, please verify.

File: src/Thorn_Calculus-Core_Bisimilarities.thy (hunk 14 above)
Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy:1470]: I think the problem with the new names proposed by you is exactly what you wrote in parentheses: “and other features, of course”. :slightly_smiling_face: Having lemma names that ignore such other features doesn’t seem good to me, as such names would be misleading.

I’m thinking about going back to having the lemma names describe the left-hand sides of the bisimilarities, like it is the case with many other lemmas in the Þ-calculus formalization. There are two challenges with this approach:

  * The second lemma has the simpler term on the left and the more complex one on the right, which means that describing the left-hand side doesn’t suggest what the whole lemma states, because the right-hand side is not the “obvious” simplification of the left-hand side, but rather a “complification”.

  * The terms involved are very complex and thus hard to describe verbally.

I propose the following solutions to these problems:

  * We swap the sides of the second lemma’s statement and use the second lemma with the `symmetric` attribute to compensate for that.

  * We don’t describe the structure of the terms but how they arose from the sides of the `inner_repeated_receive_redundancy` statement. Concretely, we call the first lemma `with_inner_repeated_receive_post_right_receive` and the second lemma `without_inner_repeated_receive_post_right_receive`.

What do you think about this idea?

Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy:1470]: The idea sounds sensible indeed.

Comment (javierdiaz72) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Fixed in 782f8f31672ad6f0b4dd8d6c0f64b1b4b71bcfc8 and 3e1e5dce18ac62324aeda8e4dc8cb28cd2fb4545, please verify.

Comment (jeltsch) [reply src/Thorn_Calculus-Core_Bisimilarities.thy]: Looks very good.

**Review by jeltsch — APPROVED** [review]
After a final small change by me (9ec442548e20534860991b9d4d36c3ebddadec14), I think this pull request is ready to be accepted. :slightly_smiling_face:
